US08334286B2
2-p-Tolyl-tetrahydro-pyrrolo[1,2-a]pyrazine-1,6-dione
A mixture of tetrahydro-pyrrolo[1,2-a]pyrazine-1,6-dione (compound of Description 15, 150 mg, 0.97 mmol), p-tolyliodide (424 mg, 1.94 mmol), CuI (62 mg, 0.32 mmol) and K2CO3 (134 mg, 0.98 mmol) in dimethylformamide (6 ml) was refluxed for 2 hours. The solvent was removed under vacuum; the residue was triturated with ethyl acetate and after filtering off the insoluble material, the organic layer was washed with brine, dried (Na2SO4) and evaporated under vacuum. The residue was purified by flash chromatography (DCM/MeOH 95/5 respectively) to give the title compound as a light brown powder (70 mg, 30% yield).

reactant | tetrahydro-pyrrolo[1,2-a]pyrazine-1,6-dione | 0.97 mmol, 150 mg | C1(C=2N(CCN1)C(CC2)=O)=O | C7H8N2O2
reactant | p-tolyliodide | 1.94 mmol, 424 mg | C1(=CC=C(C=C1)I)C | C7H7I
reactant | K2CO3 | 0.98 mmol, 134 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | CuI | 0.32 mmol, 62 mg | [Cu]I
product | 2-p-Tolyl-tetrahydro-pyrrolo[1,2-a]pyrazine-1,6-dione | 70 mg, 30% yield | C1(=CC=C(C=C1)N1C(C2N(CC1)C(CC2)=O)=O)C | C14H16N2O2
